US08748613B2
Ethyl 2-bromo-2-phenylacetate (0.22 ml, 1.23 mmol), 3,5-dimethylpiperidine (0.20 ml, 1.48 mmol), and DIPEA (0.26 ml, 1.48 mmol) were dissolved in acetonitrile (12 ml) and stirred at room temperature for 16 hours. Acetonitrile was evaporated and the crude was purified by flash chromatography (Petroleum ether/EtOAc=95/5) to obtain ethyl 2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetate (203 mg, 59.7% yield) as colourless oil.

reactant | Ethyl 2-bromo-2-phenylacetate | 1.23 mmol, 0.22 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | 3,5-dimethylpiperidine | 1.48 mmol, 0.20 ml | CC1CNCC(C1)C | C7H15N
reactant | DIPEA | 1.48 mmol, 0.26 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | ethyl 2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetate | 203 mg, 59.7% yield | CC1CN(CC(C1)C)C(C(=O)OCC)C1=CC=CC=C1 | C17H25NO2
